US08349860B2
To a solution of ethyl 2-chloro-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxylate (275 mg, 0.761 mmol) in THF (4 mL), aq. 1N LiOH (1.25 mL, 1.25 mmol) was added. The mixture was stirred at room temperature overnight. Upon acidification of the mixture with 1N HCl, white solids precipitated out, which were collected, and dried on vacuum to give 2-chloro-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxylic acid (230 mg). MS 334.3 and 336.3 (M+H, Cl pattern)

reactant | ethyl 2-chloro-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxylate | 0.761 mmol, 275 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)N1N=CC=C1)F)C(=O)OCC | C16H13ClFN5O2
reactant | LiOH | 1.25 mmol, 1N, 1.25 mL | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-(3-fluoro-4-(1H-pyrazol-1-yl)phenylamino)pyrimidine-5-carboxylic acid | 230 mg | ClC1=NC=C(C(=N1)NC1=CC(=C(C=C1)N1N=CC=C1)F)C(=O)O | C14H9ClFN5O2
